US04735940
A solution of 1 g of 5,6-dihydro-3-hydroxy-2-phenyl-thiazolo[3,2-a]thieno[3,2-c]pyridinium hydroxide (internal salt) and 0.23 g of 3-butyl-2-one in 10 ml of toluene was stirred at room temperature for 48 hours. The solution was evaporated in vacuo and the residue was chromatographed on silica gel with toluene/ethyl acetate (9:1). There was obtained pure 10-acetyl-4,5-dihydro-8-phenyl-7H-thieno-[3,2-a]quinolizin-7-one of m.p. 181°-182° (from ethyl acetate).

reactant | 5,6-dihydro-3-hydroxy-2-phenyl-thiazolo[3,2-a]thieno[3,2-c]pyridinium hydroxide | 1 g | [OH-].OC1=C(SC2=[N+]1CCC1=C2C=CS1)C1=CC=CC=C1
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 10-acetyl-4,5-dihydro-8-phenyl-7H-thieno-[3,2-a]quinolizin-7-one | C(C)(=O)C=1C=C(C(N2CCC3=C(C12)C=CS3)=O)C3=CC=CC=C3 | C19H15NO2S
